* AVE SPICE Model: L-Serine
* Provenance: vendored from the Applied-Vacuum-Engineering archive (pure L/C topology data).
* Backbone topology mapped to L/C tensors

* --- The Amino Source (NH3+) ---
V_amino in 0 SIN(0 1V 30THz)
L_nh3 in n_amino 1.3511297647809685e-13pH
C_nc n_amino n_alpha 4.0522706029886115e-16fF

* --- The Alpha Carbon (C-alpha) ---
L_alpha n_alpha n_alpha_out 1.1585894083442053e-13pH

* --- R-Group Filter Stub (L-Serine) ---
C_r_beta_bond n_alpha n_r_beta 4.576118317492612e-16fF
L_r_beta n_r_beta n_r_beta_split 1.1585894083442053e-13pH
C_beta_h1 n_r_beta_split n_bh1 3.6465177285491996e-16fF
L_bh1 n_bh1 0 9.72290214763884e-15pH
C_beta_h2 n_r_beta_split n_bh2 3.6465177285491996e-16fF
L_bh2 n_bh2 0 9.72290214763884e-15pH
C_beta_o n_r_beta_split n_gamma_o 3.605123844092135e-16fF
L_gamma_o n_gamma_o n_gamma_o_split 1.543351792973122e-13pH
C_oh n_gamma_o_split n_term_h 2.2523351496065943e-16fF
L_term_h n_term_h 0 9.72290214763884e-15pH

C_cc n_alpha_out n_carboxyl_c 4.576118317492612e-16fF

* --- The Carboxyl Sink (COO-) ---
L_carboxyl_c n_carboxyl_c n_carboxyl_split 1.1585894083442053e-13pH
C_co_double n_carboxyl_split n_o_double 1.446001793287132e-16fF
L_o_double n_o_double 0 1.543351792973122e-13pH
C_co_single n_carboxyl_split out 3.605123844092135e-16fF
L_o_single out n_term 1.543351792973122e-13pH
R_load n_term 0 376.7303Ohm

* --- AC Simulation Directives ---
.ac dec 100 1G 1000G
.end
